US05413794
Glycine was dissolved in a 2:1 mixture by volume of IPA and water. Triethylamine and 1-bromododecane were added to the solution successively and the mixture was kept stirring for more than 7 days. After the solvent was removed, THF was added to the remaining material. Triethylamine hydrobromide was removed by filtration and the filtrate was concentrated. N-n-dodecylglycine was obtained from the concentrated solution by separation and purification by column chromatography with the yield of 26.3%.

reactant | Glycine | NCC(=O)O | C2H5NO2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-bromododecane | BrCCCCCCCCCCCC | C12H25Br
solvent | IPA | CC(C)O | C3H8O
solvent | water | O | H2O
product | N-n-dodecylglycine | yield of 26.3% | C(CCCCCCCCCCC)NCC(=O)O | C14H29NO2
